US03937833
By the procedure of Example 28, 2,7-bis(4-piperidinobutyryl)fluorene is prepared and dissolved in a chloroformbutanone mixture. The resulting solution is acidified withi ethereal HCl, and the solid precipitate recrystallized three times from methanol-butanone to give 2,7-bis(4-piperidinobutyryl)fluorene dihydrochloride, M.P. 286°-288°C.

reactant | 2,7-bis(4-piperidinobutyryl)fluorene | N1(CCCCC1)CCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCN1CCCCC1)=O | C31H40N2O2
reactant | HCl | Cl | ClH
product | 2,7-bis(4-piperidinobutyryl)fluorene dihydrochloride | Cl.Cl.N1(CCCCC1)CCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCN1CCCCC1)=O | InChI=1S/C31H40N2O2.2ClH/c34-30(9-7-19-32-15-3-1-4-16-32)24-11-13-28-26(21-24)23-27-22-25(12-14-29(27)28)31(35)10-8-20-33-17-5-2-6-18-33;;/h11-14,21-22H,1-10,15-20,23H2;2*1H
